US04524212
(i) 1-[(5S,2R)-5-(Benzoyloxy)-2-methyl-1,4-dioxo-6-phenylhexyl]-L-proline, phenylmethyl ester
To a solution of (5S)-5-benzoyloxy-2-methyl-4-oxo-6-phenylhexanoic acid (740 mg., 2.17 mmole), L-proline, phenylmethyl ester, hydrochloride (525 mg., 2.17 mmole), 1-hydroxybenzotriazole hydrate (300 mg., 2.21 mmole), and diisopropylethylamine (0.45 ml., 2.6 mmole) in anhydrous tetrahydrofuran (8 ml.) at 0° under argon is added dropwise a solution of dicyclohexylcarbodiimide (457 mg., 2.21 mmole) in tetrahydrofuran (1.5 ml.). The resulting mixture is stirred at 0° for one hour and then warmed to room temperature. After stirring for 16 hours, the mixture is diluted with ether and washed with water, 1N hydrochloric acid (twice), 1N sodium bicarbonate, and brine. After drying (MgSO4), the solvent is removed at reduced pressure to give the desired product as a mixture of diastereomers. Flash chromatography [Whatman silica gel LPS-1; solvent, hexane:dichloromethane:ethyl acetate (6:2:2)] gives 460 mg. of 1-[(5S,2R)-5-(benzoyloxy)-2-methyl-1,4-dioxo-6-phenylhexyl]-L-proline, phenylmethyl ester; Rf =0.45 [silica gel, dichloromethane:ethyl acetate:hexane (4:3:3)].

reactant | (5S)-5-benzoyloxy-2-methyl-4-oxo-6-phenylhexanoic acid | 2.17 mmole, 740 mg | C(C1=CC=CC=C1)(=O)O[C@H](C(CC(C(=O)O)C)=O)CC1=CC=CC=C1 | C20H20O5
reactant | L-proline, phenylmethyl ester, hydrochloride | 2.17 mmole, 525 mg | Cl.N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1
reactant | 1-hydroxybenzotriazole hydrate | 2.21 mmole, 300 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 2.6 mmole, 0.45 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dicyclohexylcarbodiimide | 2.21 mmole, 457 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-[(5S,2R)-5-(Benzoyloxy)-2-methyl-1,4-dioxo-6-phenylhexyl]-L-proline, phenylmethyl ester | C(C1=CC=CC=C1)(=O)O[C@H](C(C[C@H](C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C)=O)CC1=CC=CC=C1 | C32H33NO6
